US04559409
Sulfaminic acid (97 g) was added batchwise to a solution composed of 84 g dicyandiamide and 300 ml of water at 80° C. whereby the temperature was not permitted to exceed about 95° C. After addition was complete, the temperature was held at 95° C. for 20 minutes, after which the solution was evaporated using a water-jet vacuum. By this process 189 g (=95% of theoretical) guanylurea sulfamate was obtained.

reactant | Sulfaminic acid | 97 g | NS(=O)(=O)O | H3NO3S
reactant | dicyandiamide | 84 g | C(#N)N=C(N)N | C2H4N4
reactant | water | 300 ml | O | H2O
product | guanylurea sulfamate | 189 g, 95% | S(N)(O)(=O)=O.C(N)(=N)NC(=O)N | InChI=1S/C2H6N4O.H3NO3S/c3-1(4)6-2(5)7;1-5(2,3)4/h(H6,3,4,5,6,7);(H3,1,2,3,4)
